US04166119
12.5 g of 1-methyl-4-(2-fluorobenzyl)-4-piperidinol dissolved in 50 ml of dimethylformamide and 20 ml of benzene are added to a stirred suspension at 120° C. of 2.3 g of a 57% oil dispersion of sodium hydride in 110 ml of dimethylformamide and 20 ml of benzene. The reaction mixture is stirred at 120° C. for 84 hours and then successively permitted to cool to ambient temperature, poured into 800 ml of ice-water and extracted with ether. The combined ether extracts were dried before the ether evaporated leaving a light yellow oil. The oil is dissolved in ether and converted to its hydrochloride salt with ethereal hydrogen chloride. The salt is recrystallized twice from an ethanol-ether mixture to provide the product, 2,3-dihydro-1'-methylspiro[benzofuran-2,4'-piperidine]hydrochloride, mp 248°-250° C.

reactant | 1-methyl-4-(2-fluorobenzyl)-4-piperidinol | 12.5 g | CN1CCC(CC1)(O)CC1=C(C=CC=C1)F | C13H18FNO
reactant | sodium hydride | [H-].[Na+]
reactant | hydrogen chloride | Cl | ClH
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 110 ml | CN(C=O)C | C3H7NO
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
solvent | ether | CCOCC | C4H10O
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | 2,3-dihydro-1'-methylspiro[benzofuran-2,4'-piperidine]hydrochloride | Cl.CN1CCC2(CC1)OC1=C(C2)C=CC=C1 | InChI=1S/C13H17NO.ClH/c1-14-8-6-13(7-9-14)10-11-4-2-3-5-12(11)15-13;/h2-5H,6-10H2,1H3;1H
